US06559172B1
Preparation of (4R*,5R*)-5-Phenyl-4-toluenesulfonyl-4,5-dihydro-1,3-oxazole
In a manner analogous to Preparation 1, benzaldehyde (0.41 mL, 4.03 mmol), tosylmethylisocyanide (0.75 g, 3.84 mmol) and NaCN (0.02 g, 0.40 mmol) gave the desired compound as a tan solid. MS(ES+) m/z 302.2 (M+H+).

reactant | benzaldehyde | 4.03 mmol, 0.41 mL | C(C1=CC=CC=C1)=O | C7H6O
reactant | tosylmethylisocyanide | 3.84 mmol, 0.75 g | S(=O)(=O)(C1=CC=C(C)C=C1)C[N+]#[C-] | C9H9NO2S
reactant | NaCN | 0.40 mmol, 0.02 g | [C-]#N.[Na+]
product | (4R*,5R*)-5-Phenyl-4-toluenesulfonyl-4,5-dihydro-1,3-oxazole | C1(=CC=CC=C1)[C@@H]1[C@H](N=CO1)S(=O)(=O)C=1C(=CC=CC1)C | C16H15NO3S
